US07964679B2
(2,4,7-trimethylindenyl)(9-fluorenyl)dimethylsilane
A 2.5 M n-BuLi solution in hexane (16.80 mL, 42.00 mmol, n-BuLi:fluorene=1.04:1) was added dropwise at 0° C. under stirring to a solution of 6.70 g of fluorene (40.31 mmol) in 100 ml of Et2O in a 500 mL 3-necked round flask. The resulting orange solution was allowed to warm up to room temperature and stirred for 1 h. A solution of chloro(2,4,7-trimethylindenyl)dimethylsilane (10.05 g, 40.06 mmol) in 20 mL of THF was cooled to 0° C. and slowly added to the lithium salt solution, also previously cooled to 0° C. At the end of the addition an orange-brown suspension was obtained. The latter was allowed to warm up to room temperature and stirred for 1.5 h. Then the reaction mixture was evaporated under reduced pressure to give a brown sticky solid, which was treated at r.t. with 150 mL of toluene and finally filtered to remove LiCl. The filtrate was dried in vacuo to give 16.48 g of a reddish oil, whose 1H NMR showed it to be the target compound contaminated by minor amounts of not identified by-products (crude yield quantitative). The product was used as such in the next step without further purification.

reactant | n-BuLi | 2.5 M | [Li]CCCC
reactant | hexane | 42.00 mmol, 16.80 mL | CCCCCC | C6H14
reactant | fluorene | 40.31 mmol, 6.70 g | C1=CC=CC=2C3=CC=CC=C3CC12 | C13H10
reactant | chloro(2,4,7-trimethylindenyl)dimethylsilane | 40.06 mmol, 10.05 g | Cl[Si](C)(C)C1C(=CC2=C(C=CC(=C12)C)C)C | C14H19ClSi
reactant | lithium | [Li] | Li
solvent | Et2O | 100 ml | CCOCC | C4H10O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | toluene | 150 mL | C1(=CC=CC=C1)C | C7H8
product | (2,4,7-trimethylindenyl)(9-fluorenyl)dimethylsilane | 16.48 g | CC=1C(C2=C(C=CC(=C2C1)C)C)[Si](C)(C)C1C2=CC=CC=C2C=2C=CC=CC12 | C27H28Si
